US04599325
2-[3-(2,6-dimethylphenyl)-2-propenyl]-1H-isoindole-1,3(2H)-dione
A mixture 9.3 g (50 mmole) of 2-bromo-m-xylene, 15.0 g (80 mmole) of N-allylphthalimide, 0.56 (2.5 mmole) of paladium acetate and 1.44 (5.5 mmole) of triphenylphosphine were dissolved in 111 ml of triethylamine. The solution was placed in a sealed container and heated at 100° C. for 24 hours. The reaction was then diluted with 800 ml of ether and 200 ml of water. The aqueous layer was separated and the organic washed twice with 100 ml portions of 2N HCl. After filtering the organic phase, washing with saturated KHCO3 and brine, and drying over MgSO4, it was concentrated on the steam bath. The resulting solid product was purified by flash chromotography and used in subsequent reactions.

reactant | 2-bromo-m-xylene | 50 mmole, 9.3 g | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | N-allylphthalimide | 80 mmole, 15.0 g | C(C=C)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO2
reactant | acetate | C(C)(=O)[O-]
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 111 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 2-[3-(2,6-dimethylphenyl)-2-propenyl]-1H-isoindole-1,3(2H)-dione | CC1=C(C(=CC=C1)C)C=CCN1C(C2=CC=CC=C2C1=O)=O | C19H17NO2
